US07105507B2
1,1-Dimethylethyl 4-Hydroxy-4-(3-hydroxypropynyl)-1-piperidinecarboxylate
Tetrabutylammonium fluoride (1M in tetrahydrofuran, 80 mL, 80 mmol) was added to a solution of 1,1-dimethylethyl 4-hydroxy-4-(3-trimethylsilyloxypropynyl)-1-piperidinecarboxylate (Description 71, 24.4 g, 75 mmol) in tetrahydrofuran (300 mL) and the mixture was stirred at room temperature for 18 hours. The solvent was evaporated under reduced pressure and water (200 mL) was added, The mixture was extracted with ethyl acetate (2×200 mL) and the combined organic fractions were washed with water (2×200 mL) and brine (200 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as an orange oil (16.8 g, 88%). 1H NMR (400 MHz, CDCl3) δ 4.32 (2H, s), 3.80–3.68 (2H, m), 3.32–3.22 (2H, m), 1.93–1.83 (2H, m), 1.75–1.65 (2H, m), 1.62 (1H, br s), and 1.46 (9H, s).

reactant | Tetrabutylammonium fluoride | 80 mmol, 1M, 80 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1,1-dimethylethyl 4-hydroxy-4-(3-trimethylsilyloxypropynyl)-1-piperidinecarboxylate | 75 mmol, 24.4 g | OC1(CCN(CC1)C(=O)OC(C)(C)C)C#CCO[Si](C)(C)C | C16H29NO4Si
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 4-Hydroxy-4-(3-hydroxypropynyl)-1-piperidinecarboxylate | 16.8 g, 88% | OC1(CCN(CC1)C(=O)OC(C)(C)C)C#CCO | C13H21NO4
